US08012277B2
Synthesis of Bis(guanidinium) Tetrafluorosuccinate
Tetrafluorosuccinic acid (500 mg, 2.63 mmol) was dissolved in 10 ml of distilled water. Guanidine carbonate (474 mg, 2.63 mmol) was added at room temperature (carbon dioxide gas was evolved) and the reaction was stirred at room temperature for 2 hours. The water was removed in vacuo with heating to approximately 90° C. for 4 hours. The product was isolated as a white solid.

reactant | Tetrafluorosuccinic acid | 2.63 mmol, 500 mg | FC(C(C(=O)O)(F)F)(C(=O)O)F | C4H2F4O4
reactant | Guanidine carbonate | 2.63 mmol, 474 mg | C(O)(O)=O.NC(=N)N
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 10 ml | O | H2O
product | Bis(guanidinium) Tetrafluorosuccinate | FC(C(C(=O)[O-])(F)F)(C(=O)[O-])F.NC(=[NH2+])N.NC(=[NH2+])N | InChI=1S/C4H2F4O4.2CH5N3/c5-3(6,1(9)10)4(7,8)2(11)12;2*2-1(3)4/h(H,9,10)(H,11,12);2*(H5,2,3,4)
